US05552437
3-Chloroacetylfuran
Under N2, 3-furoic acid (25 g, 0.22 mmol) was dissolved in CH2Cl2 (200 mL) and DMF (few drops) then oxalyl chloride (23.9 mL, 0.27 mmol) was added at 0° C. The resulting solution was stirred at 0° C. for 15 min. and at r.t. for 30 min. The solvent was evaporated. To the acid chloride (3.1 g, 24 mmol) in Et2O (20 mL) at r.t. was added an ethereal solution of diazomethane until the reaction was completed by T.L.C. The reaction mixture was cooled to 0° C. and HCl (g) was bubbled in for 20 min.. Excess HCl (g) was removed by bubbling N2 into the solution for 2 h. The resulting solution was washed with a saturated solution of NaHCO3 (2×), brine, dried over MgSO4 and then concentrated. Flash chromatography of the residue with hexane:EtOAc 9:1 as eluent afforded the title compound as a white solid.

reactant | 3-furoic acid | 0.22 mmol, 25 g | O1C=C(C=C1)C(=O)O | C5H4O3
reactant | DMF | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 0.27 mmol, 23.9 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | Et2O | 20 mL | CCOCC | C4H10O
product | 3-Chloroacetylfuran | ClCC(=O)C1=COC=C1 | C6H5ClO2
